US05468898
When the procedure of Example 14 is followed, 5-benzyloxyindole-3-acetic acid and N-methyl-N-phenethylamine are reacted to give N-methyl-N-phenethyl-2-(5-benzyloxyindol-3-yl)acetamide. (m.p. 146° C. (dec.))

reactant | 5-benzyloxyindole-3-acetic acid | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CC(=O)O | C17H15NO3
reactant | N-methyl-N-phenethylamine | CNCCC1=CC=CC=C1 | C9H13N
product | N-methyl-N-phenethyl-2-(5-benzyloxyindol-3-yl)acetamide | CN(C(CC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C26H26N2O2
